************************************************************************
* auCdl Netlist:
* 
* Library Name:  MOD_5_Counter
* Top Cell Name: mod_5_counter
* View Name:     schematic
* Netlisted on:  Sep 17 20:45:53 2021
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MOD_5_Counter
* Cell Name:    AND
* View Name:    schematic
************************************************************************

.SUBCKT AND A B GND VDD Y
*.PININFO A:I B:I Y:O GND:B VDD:B
MNM3 Y net15 GND GND N_12_LLRVT W=200e-9 L=60n M=1
MNM1 net23 B GND GND N_12_LLRVT W=200e-9 L=60n M=1
MNM0 net15 A net23 GND N_12_LLRVT W=200e-9 L=60n M=1
MPM2 net15 B VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
MPM1 net15 A VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
MPM0 Y net15 VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
.ENDS

************************************************************************
* Library Name: MOD_5_Counter
* Cell Name:    INV
* View Name:    schematic
************************************************************************

.SUBCKT INV GND IN VDD Y
*.PININFO IN:I Y:O GND:B VDD:B
MNM0 Y IN GND GND N_12_LLRVT W=200e-9 L=60n M=1
MPM0 Y IN VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
.ENDS

************************************************************************
* Library Name: MOD_5_Counter
* Cell Name:    NAND_2
* View Name:    schematic
************************************************************************

.SUBCKT NAND_2 A B GND VDD Y
*.PININFO A:I B:I Y:O GND:B VDD:B
MNM1 Y B net17 GND N_12_LLRVT W=200e-9 L=60n M=1
MNM0 net17 A GND GND N_12_LLRVT W=200e-9 L=60n M=1
MPM1 Y B VDD VDD P_12_LLRVT W=200e-9 L=60n M=1
MPM0 Y A VDD VDD P_12_LLRVT W=200e-9 L=60n M=1
.ENDS

************************************************************************
* Library Name: MOD_5_Counter
* Cell Name:    SR_Latch
* View Name:    schematic
************************************************************************

.SUBCKT SR_Latch GND Q Q_ R S VDD
*.PININFO R:I S:I Q:O Q_:O GND:B VDD:B
XI1 Q R GND VDD Q_ / NAND_2
XI0 S Q_ GND VDD Q / NAND_2
.ENDS

************************************************************************
* Library Name: MOD_5_Counter
* Cell Name:    NAND_3
* View Name:    schematic
************************************************************************

.SUBCKT NAND_3 A B C GND VDD Y
*.PININFO A:I B:I C:I Y:O GND:B VDD:B
MNM2 net20 C GND GND N_12_LLRVT W=200e-9 L=60n M=1
MNM1 net21 B net20 GND N_12_LLRVT W=200e-9 L=60n M=1
MNM0 Y A net21 GND N_12_LLRVT W=200e-9 L=60n M=1
MPM2 Y C VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
MPM1 Y B VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
MPM0 Y A VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
.ENDS

************************************************************************
* Library Name: MOD_5_Counter
* Cell Name:    MS_JK_FF
* View Name:    schematic
************************************************************************

.SUBCKT MS_JK_FF CLK GND J K Q Q_ VDD
*.PININFO CLK:I J:I K:I Q:O Q_:O GND:B VDD:B
XI8 GND CLK VDD net19 / INV
XI10 GND net14 net15 net22 net23 VDD / SR_Latch
XI11 GND Q Q_ net20 net21 VDD / SR_Latch
XI1 CLK K Q GND VDD net22 / NAND_3
XI0 Q_ J CLK GND VDD net23 / NAND_3
XI5 net19 net15 GND VDD net20 / NAND_2
XI4 net14 net19 GND VDD net21 / NAND_2
.ENDS

************************************************************************
* Library Name: MOD_5_Counter
* Cell Name:    mod_5_counter
* View Name:    schematic
************************************************************************

.SUBCKT mod_5_counter A_LSB B CLK C_MSB GND VDD
*.PININFO A_LSB:I B:I CLK:I C_MSB:I GND:I VDD:I
XI3 A_LSB B GND VDD net16 / AND
XI2 CLK GND net16 VDD C_MSB net8 VDD / MS_JK_FF
XI1 CLK GND A_LSB A_LSB B net24 VDD / MS_JK_FF
XI0 CLK GND net8 VDD A_LSB net25 VDD / MS_JK_FF
.ENDS

